US07759470B2
Coumarin 343-aminohexanoic Acid
Coumarin 343 (5 mmol, Aldrich No. 393029) and each 5.5 mmol of 4-aminohexanoic acid methyl ester and HBTU (O-Benzotriazole-N,N,N′,N′-tetramethyl-uronium-hexafluoro-phosphate) as well as 11 mmol triethylamine were dissolved in 100 ml DMF and stirred for 1.5 h at room temperature. The solvent is removed by evaporation on a rotary evaporator and the residuum is dissolved in trichloromethane. Residual HBTU is removed by extraction with water with 0.5 mol/l hydrochloric acid. The organic solvent is separated and evaporated to dryness in a rotary evaporator. The crude product (2.37 g) is purified by flash chromatography (silica gel 60, Merck, No: 11452134001) with a mobile phase consisting of trichloromethane:ethyl acetate 2:1 (v/v) (yield: 1.03 g).

reactant | Coumarin 343 | 5 mmol | C1CC2=C3C(=C4C(=C2)C=C(C(=O)O4)C(=O)O)CCCN3C1 | C16H15NO4
reactant | 4-aminohexanoic acid methyl ester | 5.5 mmol | COC(CCC(CC)N)=O | C7H15NO2
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 11 mmol | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Coumarin 343 aminohexanoic Acid | C1CC2=C3C(=C4C(=C2)C=C(C(=O)O4)C(=O)O)CCCN3C1.NC(C(=O)O)CCCC | InChI=1S/C16H15NO4.C6H13NO2/c18-15(19)12-8-10-7-9-3-1-5-17-6-2-4-11(13(9)17)14(10)21-16(12)20;1-2-3-4-5(7)6(8)9/h7-8H,1-6H2,(H,18,19);5H,2-4,7H2,1H3,(H,8,9)
